US09024038B2
(2R,3S)-3-azido-1-(2-fluoro-2-methylpropylamino)-4-(4-methoxyphenyl)butan-2-ol (22)
To a solution of 2-fluoro-2-methylpropan-1-amine-HCl (2.0 eq) and triethyl amine (4.0 eq) in iPrOH was added an iPrOH solution of (S)-2-((S)-1-azido-2-(4-methoxy-phenyl)ethyl)oxirane. The mixture was heated at 60° C. for 6 h. Upon completion the reaction mixture was concentrated then dissolved in ethyl acetate and washed with H2O. The organic layer was combined washed with brine, dried over sodium sulfate and concentrated under vacuum. The residue was purified by flash chromatography. 50% yield. 1H NMR (400 MHz, Chloroform-d) δ 7.4 (d, J=8.4 Hz, 2H), 6.89 (d, J=8.4 Hz, 2H), 3.80 (s, 3H), 3.64-3.57 (m, 2H), 2.96-2.88 (m, 2H), 2.78-2.68 (m, 4H), 1.42 (d, J=3.1 Hz, 3H), 1.37 (d, J=3.1 Hz, 3H).

reactant | 2-fluoro-2-methylpropan-1-amine-HCl | 2.0 eq | Cl.FC(CN)(C)C
reactant | triethyl amine | 4.0 eq | C(C)N(CC)CC | C6H15N
reactant | (S)-2-((S)-1-azido-2-(4-methoxy-phenyl)ethyl)oxirane | N(=[N+]=[N-])[C@@H](CC1=CC=C(C=C1)OC)[C@@H]1OC1 | C11H13N3O2
solvent | iPrOH | CC(C)O | C3H8O
product | (2R,3S)-3-azido-1-(2-fluoro-2-methylpropylamino)-4-(4-methoxyphenyl)butan-2-ol | 50% yield | N(=[N+]=[N-])[C@H]([C@@H](CNCC(C)(C)F)O)CC1=CC=C(C=C1)OC | C15H23FN4O2
